US06350749B1
To a suspension of 60% sodium hydride (0.16 g, washed with hexane thrice) in dimethylformamide (10 ml) was added 3-methyl-6-(2-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one (0.80 g), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added methanesulfonylchloride (0.41 g) in dimethylformamide (3 ml), and the mixture was stirred at the same temperature for 14 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The mixture was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane), and the resulting crystals were recrystallized from ethyl acetate-hexane to give colorless crystals of 1-methanesulfonyl-3-methyl-6-(2-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one (0.47 g).

reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 3-methyl-6-(2-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one | 0.80 g | CC1=CNC=2CC(CC(C12)=O)C1=C(C=CC=C1)F | C15H14FNO
reactant | methanesulfonylchloride | 0.41 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-methanesulfonyl-3-methyl-6-(2-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one | 0.47 g | CS(=O)(=O)N1C=C(C=2C(CC(CC12)C1=C(C=CC=C1)F)=O)C | C16H16FNO3S
